data/mechanism_extracts/OrgChemFront/10.1039_d4qo01068j.json
{"doi": "10.1039_d4qo01068j", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Photoelectrochemical oxyhalocyclization of 2-vinyl anilides with nBu4NX to give 4-halomethyl 4H-3,1-benzoxazines using 4CzIPN as photocatalyst under 455 nm irradiation with Pt electrodes.", "mechanism_family": ["photoredox_combined", "radical_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of halide anion (Cl-) to molecular halogen (Cl2); the photoexcited 4CzIPN* further activates Cl2 (via oxidative quenching or energy transfer) to generate chlorine radicals, while the cathode reduces protons to H2.", "key_intermediates": [{"name": "molecular chlorine (Cl2) generated by anodic oxidation of Cl-", "smiles": "ClCl", "role": "reactive"}, {"name": "chloronium/onium cation from Cl2 addition to vinyl anilide (Int-I)", "smiles": null, "role": "reactive"}, {"name": "4-chloromethyl benzoxazinium intermediate after cyclization (Int-II)", "smiles": null, "role": "transient"}, {"name": "oxidized intermediate Int-III prior to deprotonation/aromatization", "smiles": null, "role": "transient"}, {"name": "chlorine radical (Cl•) from photoactivation of Cl2", "smiles": "[Cl]", "role": "reactive"}, {"name": "benzyl cation formed by oxidation of benzyl radical (alternative path)", "smiles": null, "role": "reactive"}, {"name": "photoexcited 4CzIPN*", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes Cl- to Cl2; in path A Cl2 adds to the alkene as an onium cation that is intramolecularly trapped by the amide oxygen to deliver the benzoxazine; in path B 4CzIPN* (via oxidative quenching or EnT) homolyzes Cl2 to Cl•, which adds to the alkene to give a benzyl radical that is further oxidized to a benzyl cation prior to cyclization. Protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Yield decreased (to 61/31/33/30% with 2.0–5.0 equiv BHT) but reaction not fully suppressed, indicating involvement of a radical pathway alongside a non-radical (ionic) pathway."}], "evidence_types_used": ["intermediate_trap_BHT"], "evidence_strength": "weak", "notes": "Two parallel mechanisms are proposed: (favored/primary) ionic path through Cl2 addition giving an onium cation that is cyclized by the carbonyl oxygen; (alternative) photoredox/EnT radical path via Cl• addition and oxidation of the benzyl radical to a cation. BHT does not fully inhibit the reaction, consistent with both ionic and radical contributions. Gram-scale and late-stage (dehydrocholic acid-derived 1r) reactions validate practicality but do not provide mechanistic data."}
